US04536508
5-[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino-1H-1,2,4-triazole-3-methanol
A mixture of ethyl 5-[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino-1H-1,2,4-triazole-3-carboxylate (0.3 g) and lithium aluminium hydride (0.1 g) in tetrahydrofuran (50 ml) was stirred at room temperature for 0.5 h, then quenched with water. The solid was filtered off and washed with methanol. The filtrate and washings were evaporated to leave a residue which was extracted with hot ethyl acetate. Evaporation of the extract gave an oil that solidified. It was crystallised from ethyl acetate to give the title compound as an off-white solid (0.094 g) m.p. 127°-8° dec. tlc System B, Rf 0.7.

reactant | ethyl 5-[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino-1H-1,2,4-triazole-3-carboxylate | 0.3 g | N1(CCCCC1)CC=1C=C(OCCCCNC2=NC(=NN2)C(=O)OCC)C=CC1 | C21H31N5O3
reactant | lithium aluminium hydride | 0.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino-1H-1,2,4-triazole-3-methanol | 0.094 g | N1(CCCCC1)CC=1C=C(OCCCCNC2=NC(=NN2)CO)C=CC1 | C19H29N5O2
